US05639768
To a mixture of 0.47 g (1.0 mmol) of 4-[5-[4-(aminoiminomethyl)phenoxy]pentyloxy]-2-carbamoylmethoxy-N,N-bis(1-methylethyl)benzamide in 10 ml of methylene chloride is added 0.14 g (1.0 mmol) of phenyl acetate. The mixture is stirred at room temperature for 4 hours and then poured onto a silica gel column and eluted with ethyl acetate, and then 10% methanol/ethyl acetate to give 4-[5-[4[(acetylimino)aminomethyl]-phenoxy]-pentyloxy]-2-carbamoylmethoxy-N,N-bis(1-methylethyl)benzamide as a foam; CHN calculated for C29H40N4O8.0.5H2O:

reactant | 4-[5-[4-(aminoiminomethyl)phenoxy]pentyloxy]-2-carbamoylmethoxy-N,N-bis(1-methylethyl)benzamide | 1.0 mmol, 0.47 g | NN=CC1=CC=C(OCCCCCOC2=CC(=C(C(=O)N(C(C)C)C(C)C)C=C2)OCC(N)=O)C=C1 | C27H38N4O5
reactant | phenyl acetate | 1.0 mmol, 0.14 g | C(C)(=O)OC1=CC=CC=C1 | C8H8O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-[5-[4[(acetylimino)aminomethyl]-phenoxy]-pentyloxy]-2-carbamoylmethoxy-N,N-bis(1-methylethyl)benzamide | C(C)(=O)N=NCC1=CC=C(OCCCCCOC2=CC(=C(C(=O)N(C(C)C)C(C)C)C=C2)OCC(N)=O)C=C1 | C29H40N4O6
